US08729095B2
To a methanol solution (4 ml) of ethyl 1-[1-(tert-butoxycarbonyl)piperidin-4-yl]-7-chloro-3-methyl-2-oxo-1,2,3,4-tetrahydro-1,5-naphthyridine-3-carboxylate (163 mg) was added at 0° C. calcium chloride (162 mg), followed by stirring for 15 minutes. Then, sodium borohydride (115 mg) was added, and stirred for 2 hours. Water was added to the reaction solution, and extracted with ethyl acetate. The collected organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel thin layer chromatography to afford tert-butyl 4-[7-chloro-3-(hydroxymethyl)-3-methyl-2-oxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl]piperidine-1-carboxylate (30.8 mg).

reactant | methanol | 4 ml | CO | CH4O
reactant | ethyl 1-[1-(tert-butoxycarbonyl)piperidin-4-yl]-7-chloro-3-methyl-2-oxo-1,2,3,4-tetrahydro-1,5-naphthyridine-3-carboxylate | 163 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C(CC2=NC=C(C=C12)Cl)(C(=O)OCC)C)=O | C22H30ClN3O5
reactant | calcium chloride | 162 mg | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 115 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | tert-butyl 4-[7-chloro-3-(hydroxymethyl)-3-methyl-2-oxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl]piperidine-1-carboxylate | 30.8 mg | ClC1=CN=C2CC(C(N(C2=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)(C)CO | C20H28ClN3O4
